US07842688B2
f) (4-Allyloxy-3-nitrophenyl)methanol
The solution of 2.4 g of 4-allyloxy-3-nitrobenzaldehyde in 30 ml of methanol is cooled to 0° C. with stirring and subsequently admixed with 0.48 g of sodium borohydride in portions over 5 minutes. The reaction mixture is stirred further at 0° C. over 30 minutes, then poured onto cooled 2N HCl (100 ml) and extracted with tert-butyl methyl ether (2×100 ml). The organic phases are washed with water (100 ml), 1M sodium hydrogencarbonate solution (100 ml) and brine (100 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.12 (1:1 EtOAc-heptane); Rt=3.37.

reactant | 4-allyloxy-3-nitrobenzaldehyde | 2.4 g | C(C=C)OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C10H9NO4
reactant | sodium borohydride | 0.48 g | [BH4-].[Na+]
reactant | HCl | 2N, 100 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | (4-Allyloxy-3-nitrophenyl)methanol | C(C=C)OC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C10H11NO4
